### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): mapping a ball with smul

### PR DESCRIPTION
**Pull request by wwylele**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/MulAction.lean [hunk 1]
```diff
@@ -183,3 +183,37 @@ lemma NormedDivisionRing.toNormSMulClass : NormSMulClass α β where
       _ = ‖r • x‖ := by rw [norm_inv, ← mul_assoc, mul_inv_cancel₀ (mt norm_eq_zero.1 h), one_mul]
 
 end NormedDivisionRing
+
+section Real
+variable {α : Type*} [SeminormedAddCommGroup α] [Module ℝ α] [NormSMulClass ℝ α]
+
+theorem Metric.smul_image_ball {s : ℝ} (hs : s ≠ 0) (x : α) (ε : ℝ) :
+    (s • ·) '' ball x ε = ball (s • x) (|s| * ε) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/MulAction.lean]: this one would also be true when s is a complex number and alpha is a C-module. Do you think you could try to find the right generalization?

**Comment by wwylele** [comment]
oops, I previously had a wrong statement that was not generalizable. I forgot to check the generalization again after correcting the statement. Thanks for catching it

-awaiting-author

File: Mathlib/Analysis/Normed/MulAction.lean [hunk 2]
```diff
@@ -183,3 +183,37 @@ lemma NormedDivisionRing.toNormSMulClass : NormSMulClass α β where
       _ = ‖r • x‖ := by rw [norm_inv, ← mul_assoc, mul_inv_cancel₀ (mt norm_eq_zero.1 h), one_mul]
 
 end NormedDivisionRing
+
+section NormdDivisionRingModule
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/MulAction.lean]:
```suggestion
section NormedDivisionRingModule
```

**Review by sgouezel — COMMENTED** [review]
Looks good, thanks!

**Comment by sgouezel** [comment]
bors r+
Thanks!
